US06825181B1
Step 1: Synthesis of 4-[imino(pyrrolidine-1-yl)]benzoic acid hydrochloride:
15.2 g (103 mmol) of 4-cyanobenzoic acid was added to a mixture of a solution of 4 N hydrogen chloride in 200 ml of ethyl acetate and 50 ml of ethanol, and they were stirred for 5 days. The solvent was evaporated under reduced pressure. 100 ml of ethyl acetate was added to the obtained solid, and they were stirred for 30 minutes. The solid was taken by the filtration. The solid was reacted with 15.0 g (211 mmol) of pyrrolidine and 10.0 g (98.8 mmol) of triethylamine in 100 ml of ethanol as the solvent for two days. The solvent was evaporated. 40 ml of 6 N hydrochloric acid was added to the residue, and they were reacted at 85° C. for 4 hours. The solvent was evaporated, 50 ml of 1 N hydrochloric acid was added to the reaction mixture, and they were stirred for 30 minutes. The solid was taken by the filtration and then washed with 20 ml of ice/water. After the drying under reduced pressure, the title compound was obtained.

reactant | 4-cyanobenzoic acid | 103 mmol, 15.2 g | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | hydrogen chloride | 4 N | Cl | ClH
reactant | pyrrolidine | 211 mmol, 15.0 g | N1CCCC1 | C4H9N
reactant | triethylamine | 98.8 mmol, 10.0 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-[imino(pyrrolidine-1-yl)]benzoic acid hydrochloride | Cl.N=C1N(CCC1)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C11H12N2O2.ClH/c12-10-2-1-7-13(10)9-5-3-8(4-6-9)11(14)15;/h3-6,12H,1-2,7H2,(H,14,15);1H
